US05371101
In the same manner as in Reference Example 5, starting from 1.0 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.11 g of 4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone, 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (0.99 g) was obtained as a colorless oil. IR ν cm-1 (film): 1699, 1619, 1600, 1554, 1510, 1400.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.0 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 1.11 g | FC(C(F)F)(OC1=CC=C(C=C1)N1C(NN=C1)=O)F | C10H7F4N3O2
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 0.99 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=CC=C(C=C2)OC(C(F)F)(F)F)CO1 | C20H15F6N3O3
